US04824837
2-Hydroxy-3-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-5-{2-(2-thienyl)ethoxycarbonyl}-1,4-dihydropyridine [Compound (11)]
A mixture of 2-(2-thienyl)ethyl 3-amino-2-butenoate (1.8 g) and dimethyl 3-nitrobenzylidenemalonate (2.25 g) was dissolved in anhydrous 2-propanol (80 ml) and, after addition of triethylamine (27 ml), the mixture was refluxed for 21 hours. After the solvent was distilled off under reduced pressure, the residue was purified by thin-layer silica gel chromatography (developing solvent: chloroform/methanol=19/1; elution solvent: chloroform/acetone=2/1) so as to obtain 1.0 g (26%) of the desired compound.

reactant | 2-(2-thienyl)ethyl 3-amino-2-butenoate | 1.8 g | NC(=CC(=O)OCCC=1SC=CC1)C | C10H13NO2S
reactant | dimethyl 3-nitrobenzylidenemalonate | 2.25 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C(=O)OC)C=CC1 | C12H11NO6
reactant | triethylamine | 27 ml | C(C)N(CC)CC | C6H15N
solvent | 2-propanol | 80 ml | CC(C)O | C3H8O
product | 2-Hydroxy-3-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-5-{2-(2-thienyl)ethoxycarbonyl}-1,4-dihydropyridine | 1.0 g, 26% | OC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC=1SC=CC1)C | C21H20N2O7S
